US06670447B2
Synthesis of (S)-3-benzoyl-4-methyl-2,5-oxazolidinedione (L-N-benzoylalaline-NCA) (Compound No. 1017)
4-Dimethylaminopyridine (61 mg, 0.5 mmol) and N-methylmorpholine (152 mg, 1.5 mmol) were dissolved in ethyl acetate (15 mL), followed by the addition of (S)-4-methyl-2,5-oxazolidinedione (L-alanine-NCA) (230 mg, 2.0 mmol) under ice cooling. Further, a solution of benzoyl chloride (281 mg, 2.0 mmol) in ethyl acetate (7 mL) was added dropwise under ice cooling over 20 minutes. After the resulting mixture was stirred as was at 0° C. for 2 hours, a precipitated salt was filtered off, and the filtrate was concentrated under reduced pressure. The concentration residue was re-dissolved in a mixed solvent consisting of ethyl acetate (5 mL) and hexane (5 mL), and insoluble matter was filtered off. The filtrate was concentrated under reduced pressure to afford the title compound as white crystals (324 mg, 74%).

reactant | N-methylmorpholine | 1.5 mmol, 152 mg | CN1CCOCC1 | C5H11NO
reactant | (S)-4-methyl-2,5-oxazolidinedione | 2.0 mmol, 230 mg | C[C@@H]1NC(OC1=O)=O | C4H5NO3
reactant | benzoyl chloride | 2.0 mmol, 281 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | 4-Dimethylaminopyridine | 0.5 mmol, 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
product | (S)-3-benzoyl-4-methyl-2,5-oxazolidinedione | 324 mg, 74% | C(C1=CC=CC=C1)(=O)N1C(OC([C@@H]1C)=O)=O | C11H9NO4
